US04174403
A mixture of 25 g. (0.181 mole) of 3,4-methylenedioxyphenol, 36 g. (0.181 mole) of α-bromoacetophenone and 41.2 g. (0.40 mole) of sodium carbonate in 350 ml. of benzene is heated to its reflux temperature and maintained at reflux for 16 hours. To the mixture is added 50 g. of potassium carbonate, and the mixture is refluxed for an additional 7 days while collecting water in a Barrett water trap. The mixture is then diluted with a mixture of water and benzene. The benzene layer is washed with water, then cold 5 percent sodium hydroxide solution. A precipitate forms in the benzene layer. It is collected, rinsed with benzene and dried to provide a white powder which is recrystallized from ethanol to provide α-(3,4-methylenedioxyphenoxy)acetophenone, m.p. 123°-126° C.

reactant | 3,4-methylenedioxyphenol | 0.181 mole | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | α-bromoacetophenone | 0.181 mole | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | sodium carbonate | 0.40 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-(3,4-methylenedioxyphenoxy)acetophenone | C1OC=2C=C(OCC(=O)C3=CC=CC=C3)C=CC2O1 | C15H12O4
